US07034029B2
A mixture of 1H-indol-4-ylpiperazine (4.0 g, 20 mmol), di-t-butyl dicarbonate (4.8 g, 22 mmol) and NaOH (0.8 g, 20 mmol) in 40% dioxane is stirred at room temperature for 10 hours and treated with water. The reaction mixture is extracted with ethyl acetate. The extracts are combined, dried over Na2SO4 and concentrated in vacuo to give t-butyl 4-(1H-indol-4-yl)piperazine-1-carboxylate as a colorless solid, mp 137° C., identified by mass spectral and elemental analyses.

reactant | 1H-indol-4-ylpiperazine | 20 mmol, 4.0 g | N1C=CC2=C(C=CC=C12)N1CCNCC1 | C12H15N3
reactant | di-t-butyl dicarbonate | 22 mmol, 4.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 20 mmol, 0.8 g | [OH-].[Na+]
reactant | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | t-butyl 4-(1H-indol-4-yl)piperazine-1-carboxylate | N1C=CC2=C(C=CC=C12)N1CCN(CC1)C(=O)OC(C)(C)C | C17H23N3O2
